US03957783
To a solution of 29.6 g of 2-(N-methylacetylamino)-3-(o-chlorobenzoyl)-4-methylthiophene in 592 ml of ethanol, is added 6.97 g of potassium hydroxide in 190 ml of water. The mixture is heated at 95°C for 1 hour, evaporated under reduced pressure to a residue. Water is added to the residue and extracted with chloroform. The chloroform extracts are washed with water, dried over sodium sulfate, then evaporated under reduced pressure to give an oil. The residual oil is chromatographed on silica gel, using chloroform as an eluent to give 2-methylamino-3-(o-chlorobenzoyl)-4-methylthiophene as crystals having a melting point of 132° - 134°C (after recrystallization from ethanol).

reactant | 2-(N-methylacetylamino)-3-(o-chlorobenzoyl)-4-methylthiophene | 29.6 g | CCC(=O)NC=1SC=C(C1C(C1=C(C=CC=C1)Cl)=O)C | C15H14ClNO2S
reactant | potassium hydroxide | 6.97 g | [OH-].[K+]
solvent | ethanol | 592 ml | C(C)O | C2H6O
solvent | water | 190 ml | O | H2O
product | 2-methylamino-3-(o-chlorobenzoyl)-4-methylthiophene | CNC=1SC=C(C1C(C1=C(C=CC=C1)Cl)=O)C | C13H12ClNOS
